US08133907B2
2-[(R)-3-tert-Butoxycarbonyl-4-(2-fluoro-benzyl)-2,2-dimethyl-oxazolidin-5-ylmethyl]-nicotinic acid
To a solution of 2-[3-tert-Butoxycarbonylamino-4-(2-fluoro-phenyl)-2-hydroxy-butyl]-nicotinic acid (13 g, 32 mmol) in 500 mL of 2,2-dimethoxypropane and 500 mL of acetone at 0° C. is added boron trifluoride diethyl etherate (3.2 mL, 25 mmol). The reaction is heated at 40° C. overnight after which time the solvent is removed under reduced pressure. The resultant residue is then partitioned between dichloromethane and water and extracted with dichloromethane. The combined organic phases are dried over sodium sulfate, filtered, and concentrated under reduced pressure. Purification by silica gel flash column chromatography gives the title compound.

reactant | 2-[3-tert-Butoxycarbonylamino-4-(2-fluoro-phenyl)-2-hydroxy-butyl]-nicotinic acid | 32 mmol, 13 g | C(C)(C)(C)OC(=O)NC(C(CC1=C(C(=O)O)C=CC=N1)O)CC1=C(C=CC=C1)F | C21H25FN2O5
reactant | boron trifluoride diethyl etherate | 25 mmol, 3.2 mL | B(F)(F)F.CCOCC
reactant | 2,2-dimethoxypropane | 500 mL | COC(C)(C)OC | C5H12O2
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | 2-[(R)-3-tert-Butoxycarbonyl-4-(2-fluoro-benzyl)-2,2-dimethyl-oxazolidin-5-ylmethyl]-nicotinic acid | C(C)(C)(C)OC(=O)N1C(OC([C@H]1CC1=C(C=CC=C1)F)CC1=C(C(=O)O)C=CC=N1)(C)C | C24H29FN2O5
